US08445510B2
1-(cis-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
To a solution of 1-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-5-methyl-1H-pyrazole (870.0 mg, 2.069 mmol) in THF (20 mL, 200 mmol) at rt was added 1.3 M of isopropylmagnesium chloride in THF (6.367 mL, 8.278 mmol), and the mixture was stirred for 1 h. The reaction was quenched with 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.696 mL, 10.35 mmol), and allowed to stir at rt for 1 h. Sat. NH4Cl was added, and the organic solvent was removed in vacuo. The material was extracted with DCM and water. The organic layer was concentrated in vacuo to afford the title compound as a yellow solid. 1H NMR (400 MHz, CD3OD): δ=0.12 (s, 6H), 0.97 (s, 9H), 1.33 (s, 9H), 1.60-1.75 (m, 4H), 1.83-1.92 (m, 2H), 2.32-2.40 (m, 2H), 2.47 (s, 3H), 4.07-4.21 (m, 2H), 7.58 (s, 1H).

reactant | 1-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-5-methyl-1H-pyrazole | 2.069 mmol, 870.0 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1CC[C@H](CC1)N1N=CC(=C1C)I | C16H29IN2OSi
reactant | THF | 200 mmol, 20 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 1.3 M | C(C)(C)[Mg]Cl
reactant | THF | 8.278 mmol, 6.367 mL | C1CCOC1 | C4H8O
reactant | 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 10.35 mmol, 1.696 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
reactant | NH4Cl | [NH4+].[Cl-]
product | 1-(cis-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | [Si](C)(C)(C(C)(C)C)O[C@H]1CC[C@H](CC1)N1N=CC(=C1C)B1OC(C(O1)(C)C)(C)C | C22H41BN2O3Si
